US05391556
4-Amino-3-nitro-phenylalanyl-(4-methyl-piperidine)
To a suspension of 4.85 g (10.9 mMol) of N-trifluoroacetyl-4-acetylamino-3-nitro-phenylalanyl-(4-methyl-piperidine) in 10 ml of ethanol 28.0 ml of 1N sodium hydroxide solution are added dropwise at 20° C. After 3 hours' stirring at 50° C. the mixture is cooled, then after another 2 hours it is suction filtered and washed with a little ice water.

reactant | N-trifluoroacetyl-4-acetylamino-3-nitro-phenylalanyl-(4-methyl-piperidine) | 10.9 mMol, 4.85 g | FC(C(=O)N[C@@H](CC1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])C(=O)N1CCC(CC1)C)(F)F | C19H23F3N4O5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-Amino-3-nitro-phenylalanyl-(4-methyl-piperidine) | NC1=C(C=C(C[C@H](N)C(=O)N2CCC(CC2)C)C=C1)[N+](=O)[O-] | C15H22N4O3
